US07199147B2
In a mixed solvent of tetrahydrofuran (5.0 ml) and water (2.5 ml) was suspended 4-ethyl-1-tetrahydro-2H-pyran-2-yl-5-(tetrahydro-2H-pyran-2-yloxy)-1H-indazole (1.40 g), followed by adding thereto trifluoroacetic acid (10.0 ml), and the resulting mixture was stirred for 2.5 hours while being maintained at room temperature. The reaction mixture was neutralized with a 2N-aqueous sodium hydroxide solution and extracted with ethyl acetate, and the extract solution was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to obtain a crude product. The crude product was purified by a silica gel column chromatography (eluent: chloroform/ethyl acetate) to obtain 4-ethyl-1H-indazol-5-ol (314 mg, 47%) as a white solid.

reactant | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
reactant | 4-ethyl-1-tetrahydro-2H-pyran-2-yl-5-(tetrahydro-2H-pyran-2-yloxy)-1H-indazole | 1.40 g | C(C)C1=C2C=NN(C2=CC=C1OC1OCCCC1)C1OCCCC1 | C19H26N2O3
reactant | trifluoroacetic acid | 10.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 2.5 ml | O | H2O
product | 4-ethyl-1H-indazol-5-ol | 314 mg, 47% | C(C)C1=C2C=NNC2=CC=C1O | C9H10N2O
